US07741326B2
4-Bromo-1-(3-fluoro-benzyl)-1H-indole-2-carboxylic acid amide was prepared from 4-bromo-1-(3-fluoro-benzyl)-1H-indole-2-carboxylic acid benzyl ester by hydrolysis with ethanolic NaOH, followed by treatment with oxalyl chloride and then ammonia, as described in steps 3 and 4 of Example 1 MS: 348 (M+H)+.

reactant | 4-bromo-1-(3-fluoro-benzyl)-1H-indole-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C=1N(C2=CC=CC(=C2C1)Br)CC1=CC(=CC=C1)F | C23H17BrFNO2
reactant | NaOH | [OH-].[Na+]
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
product | 4-Bromo-1-(3-fluoro-benzyl)-1H-indole-2-carboxylic acid amide | BrC1=C2C=C(N(C2=CC=C1)CC1=CC(=CC=C1)F)C(=O)N | C16H12BrFN2O
